US06133303
Step 1: 4-[2-(5-Oxo-5,6,7,8-tetrahydro-naphthalen-2-yloxy)-ethyl]-imidazole-1-carboxylic acid tert-butyl ester
A solution of 1-N-Boc-4-(2-hydroxyethyl)imidazole (1.06 g, 5.0 mmol), 6-hydroxytetralone (0.811 g, 5.0 mmol), and triphenylphosphine (1.44 g, 5.5 mmol) in 10 mL of freshly distilled THF was cooled in an ice bath for 10 minutes and then treated with neat diethyl azodicarboxylate (0.87 mL, 5.5 mmol) added via syringe through a rubber septum. The ice bath was permitted to melt and the reaction continued at room temperature for 5 hours. The solvent was removed in vacuo and the residue was chromatographed (silica gel, 500 g; 1:1, EtOAc:hexanes), and the pure fractions were pooled to afford 0.61 g (33%) of the title compound as a clear, colorless, viscous oil: CI-MS m/e 357 (M+ +1).

reactant | 1-N-Boc-4-(2-hydroxyethyl)imidazole | 5.0 mmol, 1.06 g | C(=O)(OC(C)(C)C)N1C=NC(=C1)CCO | C10H16N2O3
reactant | 6-hydroxytetralone | 5.0 mmol, 0.811 g | OC=1C=C2CCCC(C2=CC1)=O | C10H10O2
reactant | triphenylphosphine | 5.5 mmol, 1.44 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 5.5 mmol, 0.87 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | C1CCOC1 | C4H8O
product | 4-[2-(5-Oxo-5,6,7,8-tetrahydro-naphthalen-2-yloxy)-ethyl]-imidazole-1-carboxylic acid tert-butyl ester | 0.61 g, 33% | C(C)(C)(C)OC(=O)N1C=NC(=C1)CCOC1=CC=2CCCC(C2C=C1)=O | C20H24N2O4
